US07307086B2
8-Pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol
To a solution of 2-bromopyridine (14 g, 88.6 mmol) in anhydrous ether (300 mL) cooled at −78° C. was slowly added a solution of 2.5 M n-butyl lithium (36 mL). After the addition, stirring was continued at −78° C. for 1 hour. To it was slowly added a solution of 1,4-cyclohexanedione mono-ethylene ketal (15 g, 96 mmol) in anhydrous ether (300 mL). When the addition was complete, the mixture was allowed to warm to 0° C. and stirring was continued for 1 hour. The reaction was quenched by addition of an aqueous solution (100 mL) of ammonium chloride (4.5 g). The organic phase was separated and the aqueous phase was extracted with methylene chloride 4 times. The combined organic phases were dried over MgSO4 and concentrated. Crystallization from EtOAc provided 7 g of the desired product. The mother liquid was purified on silica gel eluting with 10% MeOH/EtOAc to give another 3 g of the desired product. MS calculated for C13H17NO3: (M+H)+236; found 236.0.

reactant | 2-bromopyridine | 88.6 mmol, 14 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium | 2.5 M, 36 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 96 mmol, 15 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | 8-Pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol | 7 g | N1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
